US07011838B2
Using 10.0 g of (3,4-difluorobenzyliden)malononitrile, 200 ml of ethanol and 0.6 g of sodium borohydride, and according to the process described in the REFERENCE PRODUCTION EXAMPLE 3, there was obtained 8.05 g of (3,4-difluorobenzyl)malononitrile (the intermediate (23)).

reactant | (3,4-difluorobenzyliden)malononitrile | 10.0 g | FC=1C=C(C=C(C#N)C#N)C=CC1F | C10H4F2N2
reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (3,4-difluorobenzyl)malononitrile | 8.05 g, Yield: 80% | FC=1C=C(CC(C#N)C#N)C=CC1F | C10H6F2N2
